US07071182B2
4-nitro-1-(2-piperidin-1-yl-ethyl)-1H-indazole
4-Nitroindazole (mmol) and potassium carbonate (mmol) in 60 mL of DMF was added was stirred for 30 minutes, after which 4-(2-chloro-ethyl)-piperidine hydrochloride (mmol) was added. The mixture was heated to 60° C. for 6 hours, cooled to room temperature and the mixture filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure, and the residue purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30). 1H NMR (300 MHz, DMSO-D6) δ ppm 1.39 (m, 6 H), 2.36 (m, 4 H), 2.73 (t, J=6.44 Hz, 2 H), 4.63 (t, J=6.44 Hz, 2 H), 7.64 (m, 1 H), 8.16 (m, 1 H), 8.28 (m; 1 H), 8.51 (s, 1 H); MS (DCI/NH3) m/z 275 [M+H]+.

reactant | 4-Nitroindazole | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloro-ethyl)-piperidine hydrochloride | Cl.ClCCC1CCNCC1
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-nitro-1-(2-piperidin-1-yl-ethyl)-1H-indazole | [N+](=O)([O-])C1=C2C=NN(C2=CC=C1)CCN1CCCCC1 | C14H18N4O2
